US08497368B2
1-(3-(1-(1-Methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone (71.5)
The title compound (325.0 mg, 75%, 88% pure) was synthesized from 6-(1-ethoxy-vinyl)-3-[1-(1-methyl-1H-indazol-5-yl)-ethyl]-imidazo[1,2-b]pyridazine (415.0 mg, 1.20 mmol) and HCl (1.20 mL, 1.20 mmol) using the same procedure as described in the synthesis of compound 69.4. LCMS (method A): [MH]+=320, tR=5.21 min.

reactant | 6-(1-ethoxy-vinyl)-3-[1-(1-methyl-1H-indazol-5-yl)-ethyl]-imidazo[1,2-b]pyridazine | 1.20 mmol, 415.0 mg | C(C)OC(=C)C=1C=CC=2N(N1)C(=CN2)C(C)C=2C=C1C=NN(C1=CC2)C | C20H21N5O
reactant | HCl | 1.20 mmol, 1.20 mL | Cl | ClH
product | 1-(3-(1-(1-Methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone | 325.0 mg | CN1N=CC2=CC(=CC=C12)C(C)C1=CN=C2N1N=C(C=C2)C(C)=O | C18H17N5O
